US07423030B2
29.2. 4-(4-Fluorophenyl)-7-methoxy-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 2-(4-fluorobenzoyl)-5-methoxybenzoic acid with hydrazine hydrate.

reactant | 2-(4-fluorobenzoyl)-5-methoxybenzoic acid | FC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C=C2)OC)C=C1 | C15H11FO4
reactant | hydrazine hydrate | O.NN
product | 4-(4-Fluorophenyl)-7-methoxy-2H-phthalazin-1-one | FC1=CC=C(C=C1)C1=NNC(C2=CC(=CC=C12)OC)=O | C15H11FN2O2
